Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins / sulfur / Benzodiazepines / steroids / pentazocine 
/ lisinopril
 
Attending: ___.
 
Chief Complaint:
Lumbar spinal stenosis
 
Major Surgical or Invasive Procedure:
___ - Bilateral L3/4 and L4/5 laminectomy with 
non-instrumented fusion
 
History of Present Illness:
___ is a ___ female who presents today
with two or ___ years history of back and radiating buttock 
and
thigh pain, provoked by standing and walking, characteristic of
neurogenic claudication.

She characterizes this pain as a sharp pain, as well as an
occasionally lightning or shooting type of pain.  It is
precipitated by walking, reaching, standing, bending, and
lifting.

She has a long history of prior lumbar spinal disorders.  At age
___, she underwent L5-S1 decompression and fusion, for treatment
of what may have been instability.

More recently, however, she has developed this  claudicatory leg
symptoms.  It interfere with her ability to stand and walk
significantly.  For that reason, she did seek care at ___, and saw Dr. ___.  She did recognize that
she had severe lumbar spinal stenosis at two segments, above her
fusion, L3-L4 and L4-L5, and for that reason, was started a
course of conservative care.

She had physical therapies, as well as medications.  These
interventions did not help her significantly, and for that
reason, Dr. ___ suggested that she see Dr. ___
to be considered a candidate for epidural steroid treatments. 
These epidurals could not be performed, because the patient has 
a
prior history of allergy to prednisone.

She explains to me that when she had prednisone in the past, she
developed facial swelling, as well as some tightness in her 
neck.
 For that reason, the prednisone is felt to be an allergy for
her.

In the setting of severe stenosis, significant claudicatory
symptoms, and no significant improvement in her ability to stand
and walk with conservative care, it was suggested that she see 
me
today to be considered a candidate for surgical decompression.

 
Past Medical History:
Her past medical history is significant for hypertension, 
asthma,
allergies and prior thyroid carcinoma.
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Gen: NAD
Bilateral upper and lower extremities: ___ strength throughout, 
sensation grossly intact throughout
Surgical dressing c/d/i
 
Pertinent Results:
___ 12:20PM   PLT COUNT-249
___ 12:20PM   WBC-13.0*# RBC-3.46*# HGB-10.4*# HCT-32.5*# 
MCV-94 MCH-30.1 MCHC-32.0 RDW-13.8 RDWSD-46.5*
___ 12:20PM   CALCIUM-7.3* PHOSPHATE-4.1 MAGNESIUM-1.7
___ 12:20PM   estGFR-Using this
___ 12:20PM   GLUCOSE-137* UREA N-18 CREAT-0.6 SODIUM-143 
POTASSIUM-3.7 CHLORIDE-110* TOTAL CO2-21* ANION GAP-16
 
Brief Hospital Course:
Patient was admitted to the ___ Spine ___ Service 
and taken to the Operating Room for the above procedure.  Refer 
to the dictated operative note for further details.  The surgery 
was without complication and the patient was transferred to the 
PACU in a stable condition. 

TEDs/pneumoboots were used for postoperative DVT prophylaxis.  
Intravenous antibiotics were continued for 24hrs postop per 
standard protocol. Initial postop pain was controlled with a IV 
and PO pain medications.  Diet was advanced as tolerated.  The 
patient was transitioned to oral pain medication when tolerating 
PO diet.  Foley was removed postoperatively without issue. She 
did however, have elevated temperature on POD2, an urinalysis 
found to have UTI. Oral antibiotics was initiated. 

Physical therapy was consulted for mobilization OOB to ambulate. 
 Hospital course was otherwise unremarkable.  On the day of 
discharge the patient was afebrile with stable vital signs, 
comfortable on oral pain control and tolerating a regular 
___
 
Medications on Admission:
Her medications listed including alendronate, bumetanide,
cyclobenzaprine with a homeopathic diuretic, hydroxychloroquine,
Levsin, irbesartan, aspirin, loratadine, magnesium, 
multivitamin,
potassium, levothyroxine, montelukast, Naprosyn, omeprazole,
simvastatin, valacyclovir, acetaminophen.
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice daily 
Disp #*8 Tablet Refills:*0 
3.  Cyclobenzaprine 5 mg PO BID pain or spasm 
RX *cyclobenzaprine 5 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID  
5.  Gabapentin 100 mg PO Q8H 
RX *gabapentin 300 mg 1 capsule(s) by mouth three times a day 
Disp #*30 Capsule Refills:*0 
6.  Magnesium Oxide 400 mg PO DAILY  
7.  Omeprazole 20 mg PO BID  
8.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*60 Tablet Refills:*0 
9.  Senna 8.6 mg PO BID  
10.  irbesartan 150 mg oral DAILY  
11.  Levothyroxine Sodium 112 mcg PO DAILY  
12.  Loratadine 10 mg PO DAILY  
13.  Montelukast 10 mg PO DAILY  
14.  Multivitamins 1 TAB PO DAILY  
15.  Simvastatin 40 mg PO QPM  
16.  Vitamin D 4000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Lumbar spinal stenosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Lumbar Decompression With Fusion

 

 

Activity: You should not lift anything greater than 10 lbs for 2 
weeks. You will be more comfortable if you do not sit or stand 
more than ~45 minutes without getting up and walking around.

 

Rehabilitation/ Physical Therapy: ___ times a day you should go 
for a walk for ___ minutes as part of your recovery.  You can 
walk as much as you can tolerate. Limit any kind of lifting.

 

Diet: Eat a normal healthy diet. You may have some constipation 
after surgery.  You have been given medication to help with this 
issue.

 

Brace: You may have been given a brace. This brace is to be worn 
when you are walking. You may take it off when sitting in a 
chair or while lying in bed.

 

Wound Care: Remove the dressing in 2 days.

 If the incision is draining cover it with a new sterile 
dressing.  If it is dry then you can leave the incision open to 
the air.  Once the incision is completely dry (usually ___ days 
after the operation) you may take a shower. Do not soak the 
incision in a bath or pool.  If the incision starts draining at 
anytime after surgery, do not get the incision wet. Cover it 
with a sterile dressing.  Call the office.

 

You should resume taking your normal home medications.

 

You have also been given Additional Medications to control your 
pain.  Please allow 72 hours for refill of narcotic 
prescriptions, so please plan ahead.

 You can either have them mailed to your home or pick them up at 
the clinic located on ___.  We are not allowed to call in 
or fax narcotic prescriptions (oxycontin, oxycodone, percocet) 
to your pharmacy.  In addition, we are only allowed to write for 
pain medications for 90 days from the date of surgery.

 

Follow up: Please Call the office and make an appointment for 2 
weeks after the day of your operation if this has not been done 
already.

 

At the 2-week visit we will check your incision, take baseline 
X-rays and answer any questions. We may at that time start 
physical therapy.

 

We will then see you at 6 weeks from the day of the operation 
and at that time release you to full activity.

 

Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.

Physical Therapy:
Ambulate at least three times a day.
Activity as tolerated.
No bending, heavy lifting, or twisting.
TLSO to be worn when out of bed.
Evaluate for home safety
Treatment Frequency:
No dressing change unless saturated.
 
Followup Instructions:
___